US07625914B2
1 g (5.35 mmol) of (6-bromopyrid-2-yl)-N-methylamine, 1 ml of diisopropylethylamine and 1.6 g (8 mmol) of 4-nitrophenyl chloroformate are heated at 130° C. for 15 minutes by microwave. 1.2 ml (8 mmol) of heptylamine and 7 ml of dimethylformamide are added and the reaction medium is heated at 130° C. for a further 5 minutes. The residue obtained is purified by thin-layer chromatography on silica eluted with a 70/30 heptane/ethyl acetate mixture. 1.4 g (80%) of 1-(6-bromopyrid-2-yl)-3-heptyl-1-methylurea are obtained in the form of a yellow solid.

reactant | (6-bromopyrid-2-yl)-N-methylamine | 5.35 mmol, 1 g | BrC1=CC=CC(=N1)NC | C6H7BrN2
reactant | diisopropylethylamine | 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 8 mmol, 1.6 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | heptylamine | 8 mmol, 1.2 ml | C(CCCCCC)N | C7H17N
reactant | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 1-(6-bromopyrid-2-yl)-3-heptyl-1-methylurea | 1.4 g, 80% | BrC1=CC=CC(=N1)N(C(=O)NCCCCCCC)C | C14H22BrN3O
